US05523404
Ethyl 3-amino-2-chloro-2-hexenoate
61.5 g (0.32 mol) of ethyl 2-chloro-3-oxohexanoate are reacted with 61.5 g (0.80 mol) of ammonium acetate in 120 ml of methanol and worked up in analogy to Example 2. Yield: 95.5% [GC]

reactant | ethyl 2-chloro-3-oxohexanoate | 0.32 mol, 61.5 g | ClC(C(=O)OCC)C(CCC)=O | C8H13ClO3
reactant | ammonium acetate | 0.80 mol, 61.5 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 120 ml | CO | CH4O
product | Ethyl 3-amino-2-chloro-2-hexenoate | Yield: 95.5% | NC(=C(C(=O)OCC)Cl)CCC | C8H14ClNO2
